US08030334B2
3-Methyl-2-pyridin-3-yl-1H-indole hydrochloride is synthesized based on the method described in U.S. Pat. No. 3,468,894. A flask is charged with 3-propionylpyridine (1.004 g, 7.279 mmol), phenylhydrazine hydrochloride (1.010 g, 6.915 mmol) and ethanol (15 mL). The mixture is heated to reflux for 1 h and cooled to room temperature. To a portion of the reaction mixture (2.5 mL) is added HCl (4M in dioxane, 1 mL, 4 mmol) and the mixture is heated to reflux. After 3 h, the mixture is concentrated in vacuo. The solid is dissolved in the minimum amount of boiling methanol (17 mL) and allowed to cool slowly to room temperature. A solid precipitates and after cooling to 0° C. for 30 min, the yellow solid is filtered off, washed with portions of cold methanol and dried under high vacuum to give 3-methyl-2-pyridin-3-yl-1H-indole hydrochloride as yellow needles. 1H NMR (400 MHz, MeOD) δ ppm (HCl salt) 2.56 (s, 3H), 7.09-7.13 (m, 1H), 7.23-7.26 (m, 1H), 7.43 (d, J=8.1 Hz, 1H), 7.63 (d, J=8.1 Hz, 1H), 8.14-8.18 (m, 1H), 8.74 (d, J=5.8 Hz, 1H), 8.83-8.85 (m, 1H), 9.08 (s, 1H).

reactant | 3-propionylpyridine | 7.279 mmol, 1.004 g | C(CC)(=O)C=1C=NC=CC1 | C8H9NO
reactant | phenylhydrazine hydrochloride | 6.915 mmol, 1.010 g | Cl.C1(=CC=CC=C1)NN
reactant | HCl | 4 mmol, 4M, 1 mL | Cl | ClH
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 3-methyl-2-pyridin-3-yl-1H-indole hydrochloride | Cl.CC1=C(NC2=CC=CC=C12)C=1C=NC=CC1 | InChI=1S/C14H12N2.ClH/c1-10-12-6-2-3-7-13(12)16-14(10)11-5-4-8-15-9-11;/h2-9,16H,1H3;1H
